US05859014
A mixture of 1-benzyl-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione (809 mg, 1.8 mmol), prepared as in Example 25, 10% palladium on carbon (800 mg) and of 0.1N ammonium formate (180 mL, 18 mmol in methanol) was heated 10 hours at reflux. The reaction mixture then was filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel (30 g) eluting with ethyl acetate to give 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione (459 mg, 1.28 mmol), m.p. 168°-170° C. The free base was recrystallized from a solution of hydrochloric acid in methanol to give 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 245°-248° C. Anal.: Calcd. for C19H26N4O3.(HCl)2 : C, 50.99; H, 6.71; N, 12.52%; Found: C, 51.06; H, 6.47; N, 12.58%.

reactant | 1-benzyl-3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione | 1.8 mmol, 809 mg | C(C1=CC=CC=C1)N1C(N(C(C(=C1)C)=O)CCCN1CCN(CC1)C1=C(C=CC=C1)OC)=O | C26H32N4O3
reactant | ammonium formate | 18 mmol, 0.1N, 180 mL | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 800 mg | [Pd] | Pd
product | 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione | 1.28 mmol, 459 mg | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC=C(C1=O)C)=O | C19H26N4O3
